US05856503
8.97 g of [4-[6-(allyl-methyl-amino)-hexyloxy]-2-fluoro-phenyl]-(4-bromo-phenyl)-methanone in 450 ml of THF are stirred with 37 ml of 5.4M sodium methanolate in methanol at room temperature for 14 hrs. and under reflux for 1 hr. The solution is evaporated and the residue is taken up in methylene chloride/10% sodium chloride solution. The organic phase is dried, dissolved in ether and stirred overnight with 2.08 g of fumaric acid. There are obtained 8.17 g of [4-[6-(allyl-methyl-amino)-hexyloxy]-2-methoxy-phenyl]-(4-bromo-phenyl)-methanone.fumarate (m.p. 108°-113° C.).

reactant | [4-[6-(allyl-methyl-amino)-hexyloxy]-2-fluoro-phenyl]-(4-bromo-phenyl)-methanone | 8.97 g | C(C=C)N(CCCCCCOC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)Br)F)C | C23H27BrFNO2
reactant | sodium methanolate | 5.4M, 37 ml | C[O-].[Na+]
solvent | THF | 450 ml | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | [4-[6-(allyl-methyl-amino)-hexyloxy]-2-methoxy-phenyl]-(4-bromo-phenyl)-methanone | 8.17 g | C(C=C)N(CCCCCCOC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)Br)OC)C | C24H30BrNO3
